US05593983
A solution of (3β,5α)-21-(acetyloxy)-3-{[(4-methylphenyl)sulfonyl]oxy}pregnane-11,20-dione (35 g) in collidine (350 ml) was heated under reflux for 2 h. The reaction mixture was poured into water (3.5 l) containing hydrochloric acid (614 ml; 5M) and the precipitated solid was filtered off, washed with water and dissolved in dichloromethane. After drying the solution over sodium sulfate, the solvent was removed under reduced pressure. Crystallisation of the residue from methanol gave a mixture (3:1) (18.8 g) of (5α)-21-(acetyloxy)pregn-2-ene-11,20-dione and its 3-ene-isomer.

reactant | (3β,5α)-21-(acetyloxy)-3-{[(4-methylphenyl)sulfonyl]oxy}pregnane-11,20-dione | 35 g | C(C)(=O)OCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@H](CC[C@]4(C)[C@H]3C(C[C@]12C)=O)OS(=O)(=O)C1=CC=C(C=C1)C)=O | C30H40O7S
reactant | water | 3.5 l | O | H2O
reactant | hydrochloric acid | 5M, 614 ml | Cl | ClH
solvent | collidine | 350 ml | N1=C(C=C(C=C1C)C)C | C8H11N
product | (5α)-21-(acetyloxy)pregn-2-ene-11,20-dione | 18.8 g | C(C)(=O)OCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4CC=CC[C@]4(C)[C@H]3C(C[C@]12C)=O)=O | C23H32O4
